US04496754
A round bottomed, three necked, 50 ml flask equipped with a magnetic stirring unit, thermometer and constant pressure addition funnel was flushed with argon. The flask was then charged with 7.8 gm (48 mmole) of triethoxysilane and 6.3 gm (48 mmole) of dimethylammonium dimethylcarbamate. The flask an its contents were heated with stirring under argon by means of a heating mantle to 50° C. As determined by glpc the triethoxysilane was consumed after three hours at 50° C. As determined by normalized area percent and retention times, the reaction produced 22% tetraethoxysilane, and 78% N,N-dimethylcarbamatotriethoxysilane. The reaction at room temperature produced the same two products in 31% and 69% yields respectively.

reactant | triethoxysilane | 48 mmole, 7.8 gm | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | dimethylammonium dimethylcarbamate | 48 mmole, 6.3 gm | CN(C([O-])=O)C.C[NH2+]C
product | tetraethoxysilane | 22% | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
